US04011320
A mixture of 1.8 g. of 4-(2-phenoxyethoxy)-2-nitroaniline and 0.3 g. of 5% of palladium-on-charcoal catalyst in 200 ml. of methanol is hydrogenated under ambient conditions. After the uptake of hydrogen is complete, the mixture is filtered and 1,2-diamino-4-(2phenoxyethoxy)benzene is isolated from the filtrate by evaporation.

reactant | 4-(2-phenoxyethoxy)-2-nitroaniline | O(C1=CC=CC=C1)CCOC1=CC(=C(N)C=C1)[N+](=O)[O-] | C14H14N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1,2-diamino-4-(2phenoxyethoxy)benzene | NC1=C(C=C(C=C1)OCCOC1=CC=CC=C1)N | C14H16N2O2
